US07709500B2
N-{(2R)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}quinoline-6-carboxamide
Prepared as described in Example from (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.1 g) and quinoline-6-carboxylic acid (0.054 g). Title compound obtained as white solid (0.032 g).

reactant | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.1 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | quinoline-6-carboxylic acid | 0.054 g | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
product | N-{(2R)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}quinoline-6-carboxamide | ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(=O)C=2C=C3C=CC=NC3=CC2)O)C=CC1Cl | C24H25Cl2N3O3
